Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I called a lifeline because I physically wasn't feeling well."
 
Major Surgical or Invasive Procedure:
None performed
 
History of Present Illness:
Per Dr. ___ ___ Initial ___ Psychiatry Consult Note:

"Per EMS report:
___ yo female found standing in her dorm room, a&ox4, warm, 
pink,
dry, with no obvious signs of distress or major trauma. Pt
reports SI with attempt of taking a bottle of carb blocker, 40
capsules, (transported with pt), and question of taking Tylenol
___. Pt has also been cutting her flanks, with signs of
superficial cutting. Pt reports increased depression and unwell
feelings. Pt denies HI or hallucinations."

Patient reports that she called a lifeline because she wasn't
feeling physically well, later clarifying that "I didn't trust
myself to make the smartest decision". She states it's been a
long time since she cut and made her feel guilty. She states 
that
she felt like she had to. She also ate a lot of food to the 
point
of discomfort (including 12 donuts, a gallon of milk, 4 mini
pecan/pumpkin pies, popcorn, ketchup, honey mustard) in an
"effort to fill a void I was having inside". She was crying 
while
eating because she wasn't hungry and it hurt to eat it and she
was just "trying to feel the emptiness inside". She wanted to
self-induce vomiting afterwards, but due to her history of
bulimia with binge-eating and purging she thought about "never
wanting to go back there" and therefore did not self-induce
vomiting today. Patient fails to reveal that she took an entire
bottle of weight loss supplements until asked directly about
this. Then she states that she took ___ white bean extract
pills after binge-eating in order to compensate. She denies that
this was done with intent to end her life. She reports that she
knows white bean kidney extract pills "don't do anything" but is
unable to clarify why she took so many or what she thought they
would do to compensate. 

She reports that recently her "brain isn't working" but is 
unable
to elaborate without significant prompting. She describes
difficulties with concentrating and following through on a plan.
She describes feeling extremely frustrated, angry, guilty and
hopeless. She feels like a burden on her family and like she
"makes everything more complicated for everyone". She reports
that she feels like "I'm a broken egg, and my yolk is leaking
everywhere where I go. I'm leaving shit everywhere, I'm just
cracked. Everyone else somehow keeps their yolk inside". She
reports wishing she could get rid of all her emotions so she
could be productive and continue with school and "serve 
society".

She reports that earlier today, she used an X-acto knife to cut
her flanks which she had not done in years. She again denies 
that
this was with suicidal intent but was instead to cause/feel 
pain.
Patient reports "its just to hurt myself. I don't feel like I
could die". She is unable to clarify what she means by this. 
When
asked if she wishes she could die, she does not answer. She
reports that she feels like she isn't taking advantage of being
lucky enough to have a body and feels like other spirits would 
be
luckier to have her body and that she isn't making use of the
privilege of being alive. 

Patient reports good sleep ___ hours per night). She reports
good appetite besides the episode of binge-eating today denies
that she has been binging recently. In the past she has
self-induced vomiting up to 4 times daily but reports that she
hasn't self-induced vomiting in several months. 

Patient reports a history of decreased need for sleep, increased
energy, doing a lot of artwork, feeling super happy, going
outside at night, "feeling like I deserved everything", talking
fast, and being told by her teachers that she was "acting
irrationally and should get evaluated". Patient is unable to
state when exactly this happened or how many times it happened
but states that it lasted ~3 days.

Denies history of or current hallucinations, paranoid ideation,
thought insertion or broadcasting. 

ROS:
-Psychiatric: as per HPI
-General: Denies fever, chills, nightsweats, headache, focal
numbness, focal weakness, changes in vision, cough, SOB, CP,
palpitations, abdominal pain, nausea, vomiting, diarrhea,
constipation, dysuria, rash, joint pain.

COLLATERAL:

Brother, ___ (___)
Mother, ___ (___)

Left ___ for ___ Counseling ___ Director, Dr. ___
@ ___

Called National Suicide Prevention Lifeline, spoke with ___ (___)
- Pt called in and was initially vague but eventually
acknowledged having active suicidal ideation with plan (two pill
bottles in hand...had already taken one bottle of diet pills and
cut herself earlier in the evening) and intent
- She was unable to contract for safety
- She denied the cuts were fatal but that they were bleeding
profusely
- She reported prior history of SI with suicide attempt by
overdose in ___
- Has no current treaters"

Per Dr. ___ ___ Collateral Note:
___ counseling center at ___
(___)
-Please contact with dispo info

Patient is a ___ year old Hispanic freshman at ___, who uses
they/them pronouns. They presented to the counseling center
yesterday morning for a drop in appointment. She stated she came
in because "I fee like I should be doing something because dumb
things are frustrating me". They reported they were struggling
with eating and that they had bought a bottle of diet pills a 
few
days ago. They also reported recent self injurious behavior, and
was tearful at times, and shared worried of being in college and
their desire to be in school.  At this time they were assessed
for safety and denied suicidal ideation.  They had an apt for
later this week to look into eating d/o off campus. Anticipate
difficulty finding providers given out of state insurance.

Later in the evening the patient had called the suicide hotline
after taking ___ tablets of white kidney bean extract. The
suicide hotline called public safety at ___ who came to the
resident hall as well as resident hall director, assessed the
patient and they were sent to the ___. The resident hall director
also called the emergency contact ___.

The patient is initially ___, and has past psych
history of anxiety/depression and an eating disorder. They have
had 4 prior hospitalizations in ___. Their first admission was in
___ grade for a suicide attempt. They were also hospitalized in
___ grade for unknown reasons, and again hospitalized in ___
and ___ grade for their eating disorder. They have been in
therapy in the past, however has never felt very engaged in
therapy.     

___ (emergency contact) will call back with contact
number."

In the ___, patient was in good behavioral control and did not
require and physical or chemical restraints. There are no
medication administrations recorded in the ___. Patient was
medically cleared prior to admission to the inpatient 
psychiatric
unit. 

On admission to the inpatient unit, Ms. ___ explained that 
she
called the lifeline because she was afraid that she would harm
herself in such a way that she would not die, but instead become
severely debilitated. When asked about her suicide attempt she
described that she "didn't want to die, just wanted to hurt
myself, but I was scared that I would do something extremely 
bad,
like last time". She described having a previous incident in
___ - which she said was not a suicide attempt either -  when
she took 60-70 tabs of Advil ___ because of feeling "frustrated
and sad, because I was desperate...but I didn't think it would
have such severe consequences". She described these 2 incidents
as "these were not attempts, they were just not smart 
decisions".
She said that the only "actual suicide attempt" was in freshman
year of high-school; patient preferred not to go into details.
Patient denied current thoughts of self-harm or suicide, saying
that she wants to "give back to the world". She cited that her
protective factors are her faith, her parents ("I called the
lifeline because it makes sense to do what my parents want me to
do"), and her spirituality ("I'm privileged to have a body, 
there
are many souls who would like a body"). She agreed to notify
staff if she experiences thoughts of self harm or suicide. 

Patient described that she feels like hurting herself whenever
her "emotions are so unbearable". She explained further: "I know
I cherish life, but I don't know why I have to keep feeling like
this...I may feel better in 2 weeks, but I just can't cope with
this temporarily". When asked about her current mood, she
reported feeling "very present, because I'm not overthinking".
She reported good sleep ___ hours/night) recently, along with
good energy. However, she described that she "felt stuck, my
brain hasn't been functioning". She reported that she was 
feeling
hopeless yesterday, but today she feels more hopeful about the
future. She explained that she is "calmer, thoughts not racing"
after seeing her brother talking about coping skills with him.

Ms. ___ described significant anxiety about "school, money
purpose of what I'm doing" and also expressed concern about 
being
able to "give back to my parents"; she explained that she needs
to stay alive so that she can give back to them. She endorsed
weekly panic attacks during which she feels "so anxious and
nervous...lump in my throat, get very emotional and then I 
escape
the situation and run away" 

Ms. ___ describes that she knows "some people [who] can read
my mind for spiritual reasons" but declined to explain, saying
that "it's a trust thing". Denied delusions of thought control,
paranoid delusions delusions of reference, or AVH.

When asked if the history of mania obtained by Dr. ___ in
the ___ was accurate, the patient confirmed and added: "I like
living, sometimes I do impulsive things if I am desperate and if
I feel very low".

When asked what she hopes to achieve during her hospitalization,
Ms. ___ explains that she "[doesn't] want to hurt myself" and
instead wants to "learn how to function and not overthink
things".

REVIEW OF SYSTEMS:
-Psychiatric: 
---Depression: per HPI
---Anxiety: per HPI
---Mania: per HPI
---Psychosis: per HPI

-General: Denies fatigue, fever, chills, nightsweats, headache,
focal numbness, focal weakness, changes in vision, changes in
hearing, heat intolerance, cold intolerance, polyuria,
polydipsia, cough, SOB, CP, palpitations, abdominal pain, 
nausea,
vomiting, diarrhea, constipation, melena, dysuria, increased
urinary frequency, rash, skin changes, joint pain, muscle pain,
edema, bruising, bleeding.

Patient history was extracted from Dr. ___ ___
Initial ___ Psychiatry Consult Note, reviewed with patient, and
updated as appropriate.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
 - Prior diagnoses: depression, generalized anxiety, bulimia
nervosa
 - Hospitalizations: 3 (freshman year of HS for cutting/SI,
sophomore year for racing thoughts/bulimia, senior year for
intentional overdose on Tylenol)
 - Current treaters and treatment: had a therapist in ___ (last
seen in ___. Does not know therapist's name. No current
treaters
 - Medication and ECT trials: Prozac (didn't help)
 - Suicide attempts: denies (however was hospitalized medically
for 1 week after Tylenol overdose on 60-70 tablets to "stop the
pain" in ___ in ___); per HPI, the only "actual attempt"
was during freshman year of HS, but declined to go into details.
 - Self-injurious behavior: cutting with X-acto knife, had
stopped for several years, more recently has been cutting again
for past week
 - Harm to others: denies
 - Access to weapons: denies

PAST MEDICAL HISTORY:
Denies ___
Denies history of seizures.
Childhood head trauma from a fall 

Primary Care Physician: in ___, does not know name 

HOME MEDICATIONS:
___

ALLERGIES: 
NKDA  
 
Social History:
SUBSTANCE ABUSE HISTORY:
 - Alcohol: denies
 - Tobacco: denies
 - Other illicit substances and IVDU: denies

FORENSIC HISTORY:
___
FAMILY PSYCHIATRIC HISTORY:
 - History of psychiatric disorders: maternal grandmother -
depression; paternal grandmother - ? psychiatric disorder
 - History of suicide attempts: denies
 - History of substance use: denies
  
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
 - History of psychiatric disorders: maternal grandmother -
depression; paternal grandmother - ? psychiatric disorder
 - History of suicide attempts: denies
 - History of substance use: denies
  

 
Physical Exam:
ADMISSION:

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: 6 horizontal cuts on L hip; 4 horizontal cuts on R hip,
along with one vertical cut, of varying depths. Some dried blood
on some of the cuts. No swelling, erythema, or discharge. 

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: Struggled with MOYB, skipped ___
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: 
---Interprets "the grass is always greener on the other side" as
"all the grass is a different color, everything is different,
never the same, keeps on changing"
---Interprets "the early bird gets the worm" as "I'm an early
bird, so I get the worm, so I get the task done quicker in the
day"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: Caucasian woman appearing stated age, with dark,
slightly curly, messy, medium-length hair, wearing glasses and
hospital gown, fair hygiene, in no apparent distress
-Behavior: Sitting in chair with legs crossed and feet under
herself, appropriate eye contact, mild psychomotor agitation and
almost becomes tearful when talking about her strong past
emotions
-Attitude: Cooperative, variably engaged
-Mood: "very present because I'm not overthinking"
-Affect: restricted, almost becomes tearful when talking about
her past emotions and quickly switches back when she says she
feels calm, smiles inappropriately during cognitive exam
-Speech: Normal rate, volume, and tone
-Thought process: tangential, requiring frequent redirection, no
loose associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: Reports knowing people who can read her mind, per
HPI. No evidence of paranoia.
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Poor
-Judgment: Limited

================================================================

DISCHARGE:
Mental Status:
-Appearance: Hispanic woman, appears of stated age, in no acute 
distress 
-Behavior: minimal eye contact, no evidence of psychomotor 
agitation or retardation 
-Attitude: Cooperative, engaged
-Mood: "good"
-Affect: fair, stable, mood congruent, appropriate to situation 
-Speech: Normal rate, volume, and tone
-Thought process: reality oriented, goal directed
-Thought Content:
---Safety: Denies SI/HI or thoughts of self harm 
---Delusions: denies current delusional ideation.
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: fair
-Judgment: fair 
 
Pertinent Results:
___ 08:28PM BLOOD WBC-5.6 RBC-4.13 Hgb-12.9 Hct-38.1 MCV-92 
MCH-31.2 MCHC-33.9 RDW-13.9 RDWSD-46.4* Plt ___
___ 08:28PM BLOOD Neuts-42.4 ___ Monos-8.3 Eos-1.3 
Baso-0.5 Im ___ AbsNeut-2.36 AbsLymp-2.63 AbsMono-0.46 
AbsEos-0.07 AbsBaso-0.03
___ 08:28PM BLOOD Glucose-92 UreaN-5* Creat-0.7 Na-145 
K-3.8 Cl-103 HCO3-27 AnGap-15
___ 08:28PM BLOOD ALT-13 AST-21 AlkPhos-92 TotBili-<0.2
___ 08:28PM BLOOD Albumin-5.2
___ 08:28PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
 On admission, ___ signed a conditional voluntary 
agreement (Section 10 & 11) and that legal status remained in 
place throughout admission. ___ was also placed on 15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
 #) ___ was initially brought to the ___ ___ after 
calling a national suicide hotline expressing suicidal 
ideation/intent and plan to overdose after taking ~40 white 
kidney bean extract pills, and used an x-acto knife to make 
superficial laceration on their bilateral flanks in the setting 
of a binge eating episode earlier that day. After they had been 
medically stabilized, they were transferred to the Deac 4 
inpatient psychiatric unit for continued psychiatric care and 
treatment. Initially they endorsed worsening feelings of 
hopelessness, helplessness, worthlessness, and guilt over past 
several months. Additionally they described an episode of 
elevated mood and motivation (decreased need for sleep, 
increased energy, feeling "super happy," and acting irrationally 
at times) in the past interspersed with longer episodes of 
depressed mood, irritable affect, and feelings of guilt, over 
the past several months. 

On initial interview patient reported  that the aforementioned 
episode was not a suicide attempt because, they, "did not 
believe that they could die." Further they related an episode of 
an audio/visual hallucination in the past, as well as beliefs 
that others might be able to read their thoughts. Patient's 
presentation and symptoms were most consistent with a diagnosis 
of brief psychotic episode ( given symptoms had a reported 
duration of less than one month), although a Type I bipolar 
disorder with psychotic features could not be excluded. After 
discussion of risk and benefits they were started on Risperidone 
1mg PO QD, and 2mg PO QHS as  well as Benzotropine 1mg PO QHS, 
and Hydroxyzine 25mg for sleep on ___. On ___ 
Benzotropine was decreased to 0.5 mg PO QHS due to excessive 
sedation at night ( patient reporting sleeping too much). After 
decrease patient was no longer endorsing excessive night time 
sedation. 

Since starting the medication the patient initially complained 
of feeling tired during the day, this symptom later subsided. 
More notably, they reported that their thoughts had become 
progressively clearer, more linear and goal oriented. Patient 
was initially withdrawn during both individual and group 
therapy, later became more willing to engage. They focused on 
their positive feelings, expressing gratitude for having such a 
robust support network, including their friends and family, 
which have come to visit during her inpatient stay. At time of 
discharge patient noted her appetite has improved as well as her 
sleep. They reported improved mood, and denied suicidal thoughts 
plan or intent at time of discharge, they also denied thoughts 
of self harm. After meting with school and treatment team it was 
decided the best course of action was to have ___ take a medical 
leave of absence for the remainder of the semester. It was 
thought ___ would benefit from continued intensive outpatient 
follow-up given concerns of prodromal psychotic symptoms, at 
this time their diagnosis is still unclear but there is a high 
suspicion for a primary psychotic disorder. They were provided 
with referrals to partial hospitalization program in ___. As well 
as an appointment with outpatient primary care pediatrician for 
continued medical follow-up. ___ is to travel with her mother 
back to ___, and will continue to engage in outpatient treatment, 
both ___ and mother were in agreement with plan. 

3. SUBSTANCE USE DISORDERS:
#) ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard.

4. MEDICAL
#) ___ was medically cleared in the ___ no acute  medical 
issues prevented admission to Deac 4.  Additionally, ___ 
has no chronic medical issues requiring attention. PCP should 
continue to monitor A1C and fasting lipid panel every 6 months, 
given patient was started on ___. Should also monitor for 
changes in weight and consult psychiatrist if changes should be 
noted. 
 

5. PSYCHOSOCIAL
 #) GROUPS/MILIEU:  
___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. ___ often 
attended these groups.  They were generally shy and on the 
quieter side in groups, but was engaged and often spoke to a few 
peers ___ was visible on the milieu and appropriately 
interacted with staff and peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
___ did not have either an outpatient psychiatrist or 
therapist while admitted on Deac 4, therefore there were no 
outside providers to be contacted.  ___ was referred to 
both an outpatient psychiatrist and therapist upon discharge.

___ gave verbal and written permission for the team to 
contact their brother, ___, and mother ___, 
who were also given an update on ___ progress while 
admitted and discharge plan. 

On day of discharge held family meeting with mother, ___ and 
primary team, reviewed patient medications, doses, side effects, 
and additional outpatient follow-up for ___. Mother was 
encouraged to either ask the PHP for a referral to outpatient 
psychiatry or make follow-up appointment for ___ with past 
providers in ___. ___ was in agreement with plan. 

6. INFORMED CONSENT: 
#) Medication: Risperidone
 ---Intended effects/Benefits: treatment of thought disorder, 
mood stabilization, depression, anxiety
 ---Adverse effects/Risks: Drowsiness, nausea, akathisia, EPS, 
tremor, 
 TD, QTc prolongation, metabolic syndrome, prolactinoma
 Ms./Mr. _ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. She/He appeared to appreciate the information 
conveyed in the consent process by asking appropriate questions, 
which were answered by the treatment team, and expressing 
understanding of the potential risks and benefits (see above).  
Prior to starting treatment, the team also discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment. ___ understood the above and consented 
to begin the medication.

7. RISK ASSESSMENT
 On presentation, ___ was evaluated and felt to be at an 
increased risk of harm to themselves. ___ static risk 
factors noted at that time include history of suicide attempts, 
chronic mental illness, history of self-injurious behavior, 
adolescent, single relationship status, and LGBTQ orientation.  
The modifiable risk factors identified were as such: psychosis, 
disorganized behavior, impulsiveness, poorly controlled mental 
illness, lack of engagement with outpatient treatment, no 
established outpatient providers, social withdrawal, 
hopelessness, insomnia, active self-injurious behaviors, and 
limited coping skills.  These modifiable risk factors were 
addressed with acute stabilization in a safe environment on a 
locked inpatient unit, psychopharmacologic adjustments, 
psychotherapeutic interventions (OT groups, SW groups, 
individual therapy meetings with psychiatrists), and presence on 
a social milieu environment.  ___ is being discharged 
with many protective factors, including sense of responsibility 
to family, future-oriented viewpoint, spirituality, no chronic 
substance use, and no access to lethal weapons.  Overall, based 
on the totality of our assessment at this time, Ms./Mr. _ is not 
at an acutely elevated risk of harm to self nor danger to 
others. 

Our prognosis of this patient is fair.

 
Medications on Admission:
none
 
Discharge Medications:
1.  Benztropine Mesylate 0.5 mg PO QHS 
2.  RisperiDONE 1 mg PO DAILY 
3.  RisperiDONE 2 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified psychotic mood disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for the treatment of your mood 
symptoms, thoughts of self harm and problems with concentration 
and attention. You were started on medications to help with 
these symptoms and have responded well. You are now ready to be 
discharged home. 
 
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___